US08008302B2
Step d) Formation of (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-[4-(trifluoro methoxy)phenyl]pentanoic acid
To a solution of (2S,3R)-2-hydroxy-3-{3-[4-(trifluoromethoxy)phenyl]propyl}butanedioic acid (5.58 g; 16.6 mmol; 1.0 eq.) in acetone (61 mL) was added 2,2-dimethoxypropane (3.5 mL; 28.2 mmol; 1.70 eq.) and copper(II) chloride (220 mg; 1.66 mmol; 0.1 eq.). The resulting reaction mixture was stirred 14 h at RT. The reaction mixture was evaporated and the residue taken up in Et2O and filtered on a pad of cellite. The liquids were evaporated again and the residue was treated with activated charcoal in Et2O and filtered on a pad of cellite to give the title product as a greenish oil used in the next step without further purification. (5.85 g; 93.7%). M+(ESI): 377.0; M−(ESI): 375.1.

reactant | (2S,3R)-2-hydroxy-3-{3-[4-(trifluoromethoxy)phenyl]propyl}butanedioic acid | 16.6 mmol, 5.58 g, 1.0 eq. | O[C@H](C(=O)O)[C@H](C(=O)O)CCCC1=CC=C(C=C1)OC(F)(F)F | C14H15F3O6
reactant | 2,2-dimethoxypropane | 28.2 mmol, 3.5 mL, 1.70 eq. | COC(C)(C)OC | C5H12O2
solvent | acetone | 61 mL | CC(=O)C | C3H6O
catalyst | copper(II) chloride | 1.66 mmol, 220 mg, 0.1 eq. | [Cu](Cl)Cl
product | (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-[4-(trifluoro methoxy)phenyl]pentanoic acid | CC1(OC([C@@H](O1)[C@H](C(=O)O)CCCC1=CC=C(C=C1)OC(F)(F)F)=O)C | C17H19F3O6
